US05112743
Into a 1l three-necked flask equipped with a stirring machine, a condenser and a dropping funnel, there were introduced 98.5 g (0.8 mole) of o-aminobenzyl alcohol and 500 m l of acetone and the mixture was stirred while cooling in an NaC l-ice bath. A solution of 27.5 g (0.1 mole) of m-benzenedisulfonyl chloride in 200 m l acetone was dropwise added to the mixture through the dropping funnel over about one hour. After the dropwise addition, the flask was removed from the NaCl-ice bath and the content thereof was stirred at room temperature for two hours. After completion of the reaction, most of the acetone was removed by distillation under reduced pressure and the residue (reaction product) was poured into 1 l of water and then acidified with hydrochloric acid. The precipitate was collected by filtration and dissolved in an aqueous solution of sodium hydroxide. After removing impurities by filtration, the filtrate was introduced into a separatory funnel and washed twice with ethyl acetate. The water phase was acidified with the addition of hydrochloric acid and the precipitate was collected by filtration. The precipitate thus obtained was sufficiently washed with water and dried to give solid of N,N'-bis(o-hydroxymethylphenyl)benzene-m-disulfonamide (yield 30.6 g).

reactant | o-aminobenzyl alcohol | 0.8 mole, 98.5 g | NC1=C(CO)C=CC=C1 | C7H9NO
reactant | acetone | CC(=O)C | C3H6O
reactant | m-benzenedisulfonyl chloride | 0.1 mole, 27.5 g | C1(=CC(=CC=C1)S(=O)(=O)Cl)S(=O)(=O)Cl | C6H4Cl2O4S2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 1 l | O | H2O
product | N,N'-bis(o-hydroxymethylphenyl)benzene-m-disulfonamide | yield 30.6 g | OCC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)NC1=C(C=CC=C1)CO | C20H20N2O6S2
